US03998955
66 g of 2-methyl-4,6-dichloro-5-n-butyl-pyridine are dissolved in 600 ml of methylene chloride and a solution of 66 g of 85% strength m-chloroperbenzoic acid in 600 ml of methylene chloride is added dropwise over the course of 21/2 hours whilst stirring. Thereafter, the mixture is stirred for a further 48 hours at room temperature. The reaction solution is extracted by shaking with aqueous ferrous sulphate solution and with 2 N sodium carbonate solution. The methylene chloride solution is dried and evaporated. 2-Methyl-4,6-dichloro-5-n-butyl-pyridine-N-oxide is thus obtained as the residue. This is taken up in 300 ml of toluene and 82 ml of acetic anhydride are added over the course of 15 minutes whilst stirring. Thereafter the mixture is boiled under reflux for 15 hours. The reaction solution is evaporated. The residue is taken up in ether and extracted by shaking with 2 N sodium carbonate solution. The ether solution is dried and evaporated. After fractionation of the residue, 2-acetoxymethyl- 4,6-dichloro-5-n-butyl-pyridine is obtained.

reactant | 2-methyl-4,6-dichloro-5-n-butyl-pyridine | 66 g | CC1=NC(=C(C(=C1)Cl)CCCC)Cl | C10H13Cl2N
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4,6-dichloro-5-n-butyl-pyridine-N-oxide | CC1=[N+](C(=C(C(=C1)Cl)CCCC)Cl)[O-] | C10H13Cl2NO
